US09102591B2
2-(Tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine
2-(Dihydro-2H-pyran-4(3H)-ylidene)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile (1.04 g, 3.88 mmol) was dissolved in methanol (50 mL) and 7 M NH3 in methanol (20 mL) was added. The solution was flushed with Ar. Raney nickel (0.033 g, 0.39 mmol) was added and mixture hydrogenated on a Parr Apparatus at room temperature for 4 hours. Then filtered through a plug of celite and concentrated in vacuo. The crude product was used for the next step without further purification.

reactant | 2-(Dihydro-2H-pyran-4(3H)-ylidene)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile | 3.88 mmol, 1.04 g | O1CCC(CC1)=C(C#N)C=1C=NC(=CC1)C(F)(F)F | C13H11F3N2O
reactant | NH3 | 7 M | N | H3N
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney nickel | 0.39 mmol, 0.033 g | [Ni] | Ni
product | 2-(Tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine | O1CCC(CC1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C13H17F3N2O
